US08865712B2
h) (R)-2-[2-(6-Bromo-3-fluoro-pyridin-2-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]3,3,3-trifluoro-2-methyl-propionic acid ethyl ester
To a solution of (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid ethyl ester (715 mg, 3.84 mmol) in DMF (4 ml) was added NaH (55%) (154 mg, 3.84 mmol) at room temperature and the reaction mixture was stirred for 30 minutes at room temperature. A solution of 6-bromo-3-fluoro-2-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine (800 mg, 1.922 mmol) in DMF (9 ml) was added and the reaction mixture was stirred at room temperature for hours. The reaction mixture was poured onto a mixture of ice/2N HCl/t-butyl-methylether. The organic layer was washed with sat. sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and evaporated. Silica gel chromatography (cyclohexane/ethyl acetate) afforded the title compound as a mixture of 2 diastereoisomers. 300 mg (26% yield). TLC (cyclohexane/ethyl acetate 2:1) Rf=0.42; LCMS RtH5=1.25 min (100%, TIC ES+602, 604).

reactant | (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid ethyl ester | 3.84 mmol, 715 mg | C(C)OC([C@@](C(F)(F)F)(C)O)=O | C6H9F3O3
reactant | NaH | 3.84 mmol, 154 mg | [H-].[Na+]
reactant | 6-bromo-3-fluoro-2-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine | 1.922 mmol, 800 mg | BrC1=CC=C(C(=N1)C1(N(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)F | C14H11BrFN3O4S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
product | (R)-2-[2-(6-Bromo-3-fluoro-pyridin-2-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]3,3,3-trifluoro-2-methyl-propionic acid ethyl ester | 26% yield | C(C)OC([C@@](C(F)(F)F)(C)OCC(C)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=NC(=CC=C1F)Br)=O | C20H20BrF4N3O7S
